US05846995
N-(N,N-Diethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-3-furamide hydrochloride
Beginning with 0.100 gm (0.30 mMol) 8-amino-1,2,3,4-tetrahydro-2-diethylaminodibenzofuran and 0.052 gm (0.40 mMol) furan-3-carbonyl chloride, 0.081 gm (69%) of the title compound were recovered as an off-white solid by the procedure described in Example 17.

reactant | 8-amino-1,2,3,4-tetrahydro-2-diethylaminodibenzofuran | 0.30 mMol, 0.100 gm | NC=1C=CC2=C(C3=C(O2)CCC(C3)N(CC)CC)C1 | C16H22N2O
reactant | furan-3-carbonyl chloride | 0.40 mMol, 0.052 gm | O1C=C(C=C1)C(=O)Cl | C5H3ClO2
product | N-(N,N-Diethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-3-furamide hydrochloride | 0.081 gm, 69% | Cl.C(C)N(C1CC2=C(OC3=C2C=C(C=C3)NC(=O)C3=COC=C3)CC1)CC | InChI=1S/C21H24N2O3.ClH/c1-3-23(4-2)16-6-8-20-18(12-16)17-11-15(5-7-19(17)26-20)22-21(24)14-9-10-25-13-14;/h5,7,9-11,13,16H,3-4,6,8,12H2,1-2H3,(H,22,24);1H
